US08558001B2
N-(4-Bromo-3-methylbenzyl)-2,6-dichlorobenzamide (0.13 g, 0.35 mmol), 2-oxo-1,2-dihydropyridin-4-ylboronic acid (0.053 g, 0.39 mmol), cesium carbonate (0.34 g, 1.05 mmol), [1,1′ Bis(diphenylphosphino(ferrocene]dichloropalladium(II) (25 mg, 0.035 mmol) were dissolved in degassed DMF (3 mL) and H2O (1.5 mL). The reaction mixture was degassed again by bubbling nitrogen through for 15 min then heated in the microwave at 85° C. for 20 min. The reaction mixture was diluted with EtOAc and extracted three times with water. The organic phase was dried over magnesium sulfate, filtered and concentrated in vacuum. The resulting solid was purified by reverse phase chromatography to afford 2,6-dichloro-N-(3-methyl-4-(2-oxo-1,2-dihydropyridin-4-yl)benzyl)benzamide.

reactant | N-(4-Bromo-3-methylbenzyl)-2,6-dichlorobenzamide | 0.35 mmol, 0.13 g | BrC1=C(C=C(CNC(C2=C(C=CC=C2Cl)Cl)=O)C=C1)C | C15H12BrCl2NO
reactant | 2-oxo-1,2-dihydropyridin-4-ylboronic acid | 0.39 mmol, 0.053 g | O=C1NC=CC(=C1)B(O)O | C5H6BNO3
reactant | cesium carbonate | 1.05 mmol, 0.34 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1.5 mL | O | H2O
product | 2,6-dichloro-N-(3-methyl-4-(2-oxo-1,2-dihydropyridin-4-yl)benzyl)benzamide | ClC1=C(C(=O)NCC2=CC(=C(C=C2)C2=CC(NC=C2)=O)C)C(=CC=C1)Cl | C20H16Cl2N2O2
